US06518264B2
The operation is carried out as described in Example 87, starting. with 0.05 g of 1-{(R*)-[4-(chloromethyl)phenyl]-(4-chlorophenyl)methyl}-3-[(3,5-difluorophenyl)(methylsulfonyl)methylene]azetidine, form A isomer, 1.0 cm3 of dichloromethane and 0.025 g of 3,3-dimethylpiperidine. The crude product is chromatographed on a silica gel column (particle size 0.06-0.200 mm, diameter 8 mm, height 8 cm), eluting with 80 cm3 of dichloromethane and then eluting with a dichloromethane and methanol mixture (95/5 by volume), collecting 2.5 cm3 fractions immediately after using this eluent mixture. Fractions 3 to 8 are combined and then concentrated to dryness under reduced pressure (2.7 kPa). 0.040 g of 1-{(R*)-(4-chlorophenyl)[4-(3,3-dimethylpiperidin-1-ylmethyl)phenyl]methyl}-3-[(3,5-difluorophenyl)(methylsulfonyl)methylene]azetidine, form A isomer, is obtained in the form of a white foam [1H NMR spectrum (300 MHz, CDCl3, δ in ppm): 0.94 (s, 6H), 1.21 (mt, 2H), from 1.50 to 1.65 (mt, 2H), 1.99 (broad s, 2H), 2.27 (unresolved complex, 2H), 2.81 (s, 3H), 3.36 (s, 2H), 3.85 (mt, 2H), 4.33 (mt, 2H), 4.49 (s, 1H), 6.84 (tt, J=8.5 and 2.5 Hz, 1H), 6.98 (mt, 2H), from 7.20 to 7.40 (mt, 8H)].

reactant | 1-{(R*)-[4-(chloromethyl)phenyl]-(4-chlorophenyl)methyl}-3-[(3,5-difluorophenyl)(methylsulfonyl)methylene]azetidine | 0.05 g | ClCC1=CC=C(C=C1)[C@@H](N1CC(C1)=C(S(=O)(=O)C)C1=CC(=CC(=C1)F)F)C1=CC=C(C=C1)Cl | C25H21Cl2F2NO2S
reactant | 3,3-dimethylpiperidine | 0.025 g | CC1(CNCCC1)C | C7H15N
solvent | dichloromethane | 1.0 cm3 | ClCCl | CH2Cl2
product | 1-{(R*)-(4-chlorophenyl)[4-(3,3-dimethylpiperidin-1-ylmethyl)phenyl]methyl}-3-[(3,5-difluorophenyl)(methylsulfonyl)methylene]azetidine | 0.040 g | ClC1=CC=C(C=C1)[C@H](N1CC(C1)=C(S(=O)(=O)C)C1=CC(=CC(=C1)F)F)C1=CC=C(C=C1)CN1CC(CCC1)(C)C | C32H35ClF2N2O2S
